US07253196B2
2-((1S,2S,4R)-Bicyclo[2.2.1]heptan-2-ylamino)-5-(2-hydroxyethyl)-5-(2-methylallyl)thiazol-4(5H)-one
The mixture of 2-((1S,2S,4R)-bicyclo[2.2.1]heptan-2-ylamino)-5-(2-methylallyl)-5-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)thiazol-4(5H)-one (420 mg, 1.07 mmol) and p-toluenesulfonic acid (100 mg) in MeOH (5.0 mL) was stirred for 16 h at room temperature. The reaction mixture was then concentrated in vacuo, and sat'd NaH2PO4 was added. The mixture was then extracted with EtOAc, and the organic layer was washed with sat'd NH4Cl, dried over MgSO4, filtered and concentrated in vacuo. The crude residue was purified by flash chromatography (4:1; Hexane:EtOAc) to give the title compound as solid. MS (ES+): 309 (M+H)+.

reactant | 2-((1S,2S,4R)-bicyclo[2.2.1]heptan-2-ylamino)-5-(2-methylallyl)-5-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)thiazol-4(5H)-one | 1.07 mmol, 420 mg | [C@H]12[C@H](C[C@H](CC1)C2)NC=2SC(C(N2)=O)(CCOC2OCCCC2)CC(=C)C | C21H32N2O3S
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | MeOH | 5.0 mL | CO | CH4O
product | 2-((1S,2S,4R)-Bicyclo[2.2.1]heptan-2-ylamino)-5-(2-hydroxyethyl)-5-(2-methylallyl)thiazol-4(5H)-one | [C@H]12[C@H](C[C@H](CC1)C2)NC=2SC(C(N2)=O)(CC(=C)C)CCO | C16H24N2O2S
